US06338741B1
a) Preparation of 5-amino-1-benzyl-3-methylpyrazole
To a solution of 16.4 g (0.2 mol) of 3-aminocrotononitrile in 100 cm3 of n-pentanol were added 26.9 g (0.22 mol) of benzylhydrazine and the mixture was then heated at reflux for 12 hours. The n-pentanol was subsequently distilled off under reduced pressure and a thick oil was obtained, which was purified by chromatography on silica gel. A pale yellow solid was obtained, which was crystallized from isopropyl ether and was then filtered on a sinter funnel. After drying under vacuum at 40° C., 17 g of the expected product were obtained in the form of a pale yellow solid, the melting point of which was from 76 to 78° C.

reactant | 3-aminocrotononitrile | 0.2 mol, 16.4 g | N\C(=C/C#N)\C | C4H6N2
reactant | benzylhydrazine | 0.22 mol, 26.9 g | C(C1=CC=CC=C1)NN | C7H10N2
solvent | n-pentanol | 100 cm3 | C(CCCC)O | C5H12O
product | 5-amino-1-benzyl-3-methylpyrazole | 17 g | NC1=CC(=NN1CC1=CC=CC=C1)C | C11H13N3
